US05710322
A solution of 15 g (95 mmol) of ethyl trimethyl-pyruvate and 50 g (413 mmol) of (S)-1-phenylethylamine in 50 ml of xylene was boiled under reflux on a water separator for 18 hours. Subsequently, the solvent was distilled off and excess amine was removed at 120° C. in a vacuum. After crystallization of the distillation residue from 125 ml of hexane there were obtained 14.3 g (45%) of (S)-3,3-dimethyl-N-[(S)-1-phenylethyl]-2-(1-phenylethylimino)-butyramide of melting point 96°-97° C. [α]=-58.9 (c=1.0, CHCl3).

reactant | ethyl trimethyl-pyruvate | 95 mmol, 15 g | CC(C(C(=O)OCC)=O)(C)C | C8H14O3
reactant | (S)-1-phenylethylamine | 413 mmol, 50 g | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | water | O | H2O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (S)-3,3-dimethyl-N-[(S)-1-phenylethyl]-2-(1-phenylethylimino)-butyramide | 14.3 g, 45% | CC(C(C(=O)N[C@@H](C)C1=CC=CC=C1)=N[C@@H](C)C1=CC=CC=C1)(C)C | C22H28N2O
